US05346917
A solution of 1-[[3-(diethylamino)propyl]amino]-9-oxothioxanthen-4-carboxaldehyde (3.3 g, 8.96 mmol) and 3 g of formic acid in 50 mL of N-methylformamide was allowed to reflux for 2 h. The mixture was basified with 5 mL of a 5N sodium hydroxide solution and extracted into chloroform (3×150 ml). The organic layer was dried over sodium sulfate, concentrated in vacuo, and a crude oil was dissolved in a 3N aqueous HCl solution (50 ml) and heated on a steam bath for 3 h. The above mixture was cooled, basified with 30 mL of 35% NaOH, extracted into chloroform (3×150 ml), the organic layer dried over sodium sulfate and concentrated in vacuo to afford a brown oil. The brown oil was purified by flash chromatography (silica gel; 5% triethylamine/Et2O, then 5% Et3N/EtOAc, then triethylamine/methanol/EtOAc (5:5:90)) to afford 1.1 g of 1-[[3-(diethylamino)propyl]amino]-4-(methylaminomethyl)thioxanthen-9-one, as a clear orange gum. The above gum was converted into the corresponding dihydrochloride by treatment with 6N HCl in ether to afford 1.04 g of the dihydrochloride.3/2 hydrate as a yellow powder, m.p. 222°-224° C.

reactant | 1-[[3-(diethylamino)propyl]amino]-9-oxothioxanthen-4-carboxaldehyde | 8.96 mmol, 3.3 g | C(C)N(CCCNC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)C=O)CC | C21H24N2O2S
reactant | formic acid | 3 g | C(=O)O | CH2O2
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | N-methylformamide | 50 mL | CNC=O | C2H5NO
product | 1-[[3-(diethylamino)propyl]amino]-4-(methylaminomethyl)thioxanthen-9-one | 1.1 g | C(C)N(CCCNC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)CNC)CC | C22H29N3OS
